US07557112B2
A mixture of 260 mg of 1-[2-(4-chloro-2,5-difluorophenyl)thieno[3,2-d]pyrimidine-4-yl]azepane-4-carbonitrile and 35% HCl aq was stirred for 3 hours at 80° C. After the reaction mixture was concentrated and dried under reduced pressure, the obtained residue was purified by silica gel column chromatography (chloroform-MeOH) to give a solid. THF and 0.2 ml of 4M HCl-EtOAc solution were added to the obtained solid. After the solvent was removed under reduced pressure, the residue washed with EtOAc to give 250 mg of 1-[2-(4-chloro-2,5-difluorophenyl)thieno[3,2-d]pyrimidine-4-yl]azepane-4-carboxylic acid hydrochloride.

reactant | 1-[2-(4-chloro-2,5-difluorophenyl)thieno[3,2-d]pyrimidine-4-yl]azepane-4-carbonitrile | 260 mg | ClC1=CC(=C(C=C1F)C=1N=C(C2=C(N1)C=CS2)N2CCC(CCC2)C#N)F | C19H15ClF2N4S
reactant | HCl | Cl | ClH
reactant | HCl EtOAc | 4M, 0.2 ml | Cl.CCOC(=O)C
solvent | THF | C1CCOC1 | C4H8O
product | 1-[2-(4-chloro-2,5-difluorophenyl)thieno[3,2-d]pyrimidine-4-yl]azepane-4-carboxylic acid hydrochloride | 250 mg | Cl.ClC1=CC(=C(C=C1F)C=1N=C(C2=C(N1)C=CS2)N2CCC(CCC2)C(=O)O)F | InChI=1S/C19H16ClF2N3O2S.ClH/c20-12-9-13(21)11(8-14(12)22)17-23-15-4-7-28-16(15)18(24-17)25-5-1-2-10(3-6-25)19(26)27;/h4,7-10H,1-3,5-6H2,(H,26,27);1H
